Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm failing out of school"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note: 

"Patient has been struggling for school over the past year and a 
half. He first started struggling in sophomore year and his 
major of ___, failed 2 courses in the second 
semester of sophomore year and was placed on academic probation. 
This was when he first began considering ending his life in the 
setting of worsening school performance. He then reports having 
to take retake his sophomore classes in ___ year and, in the 
first semester of ___ failed one course at this point, 
suspension was considered by ___, and the patient 
states that he would have attempted to end his life had he been 
suspended. However he appealed the potential suspension and, 
instead his academic probation was extended. Beginning of the 
semester, the patient was more hopeful, and the suicidal 
ideation improved significantly until he took his first exams of 
the semester. He failed the examinations and 2 of his courses, 
leading to a resurgence of suicidal ideation, with plan of 
cutting his throat with a knife. As the semester progressed, the 
suicidal ideation worsened along with his mood and symptoms of 
depression.”
.
“Yesterday morning when he was studying for his examination, he 
states he could not focus on the task at hand and began to 
consider more deeply ending his life. Upon waking this morning 
he states that he could not get out of bed to go to the exam, 
and by then he had been sleeping with the knife at his bedside. 
He grabbed a knife placed at his neck without cutting himself, 
and held it there for approximately 10 minutes. He states he 
looked around his room and when his eyes landed on a stuffed 
animal that his mother gave him, he began to reconsider his 
actions. He then called ___ Police Department, who came to his 
door knocked he answered and, the police performed an assessment 
and sent him by ambulance to the emergency department for safety 
evaluation. Now that he is in the emergency department, and has 
not ended his life, he states that he, "does not understand how 
things got so bad.”
.
Patient has been more isolative this semester than in the past, 
however he does have a baseline isolation secondary to his 
muscular dystrophy which makes it difficult to leave his 
apartment on a regular basis. He denies having many friends in 
the area stating that most of his friends currently live in the 
___ area from where he moved to ___ for college. He 
communicates with them daily by a playing computer games 
otherwise he has very few social outlets in the area. States 
that his energy level has been unchanged, has not been sleeping 
well stating that he goes to sleep around ___ AM and wakes up 
around noon though he feels rested upon waking, his appetite is 
unchanged and he remains at a stable weight, endorses 
psychomotor agitation in association with anxiety, while he 
states his concentration is fine, he has been having difficulty 
focusing on his schoolwork of late. In regards to anxiety, he 
notes intermittent shaking hands and the sensation of a "knot" 
in his stomach when he feels anxious, but denies clear episodes 
of panic attacks. The patient denies symptoms of mania such as 
distractibility, erratic behavior, grandiosity, flight of ideas, 
increased activity, decreased need for sleep, or 
talkativeness/pressured speech.  The patient also denies 
psychotic symptoms such as auditory or visual hallucinations, 
paranoia, or delusions."  
.
Collateral from Mother ___ ___, as 
documented in Dr. ___: "His mother states that he failed 
a couple of classes last year, and plan to make those courses up 
over the summer. The patient submitted a plan to his professor 
for making up his course work, but states that school have been 
harder than expected citing his muscular dystrophy making it 
difficult to get to classes. He thought the online classes would 
help but this did not work well. His mother and father speak 
with him weekly generally on ___ nights, and during these 
conversations he has appeared to be, "normal happy-go lucky 
___ There is no indication that he was struggling the 
semester, nor was there any any indication that he was 
considering harming himself. They were always worried for safety 
in regards to his ability to ambulate and get around in the 
setting of his muscular dystrophy, though self-harm was never a 
consideration. The patient has never had any psychiatric 
treatment nor has he been on any psychiatric medications. Never 
has he had psychiatric hospitalization."  
.
In the ED, patient was in good behavioral control, pleasant and 
cooperative with staff. He did not receive any medications. 
.
On admission interview, per ___, 
"patient reports that he's ___ at ___ studying ___ 
___ and that he's been struggling since the second 
semester of the sophomore year. That semester, he failed 2 
courses that, he admits, he didn't put enough effort into 
because they are theoretic courses (math and circuits) not 
directly relevant to what he wants to do (computer engineering). 
He was supposed to be suspended by the school but successfully 
appealed the suspension. Last summer he tried taking one of the 
courses, math, as ___ in ___ where his 
parents now live, but couldn't put his mind to it and failed. 
This semester he's retaking both of his failed courses because 
they're required for graduation, and he already knows that he's 
going to fail them and will likely get kicked out from ___.  
Patient says that he started feeling depressed after getting the 
suspension notice after failing the two classes for the first 
time, and taking these courses this semester he's been 
increasingly anxious and depressed, with disturbed sleep, 
decreased concentration and energy and anhedonia resulting in 
patient skipping many of his classes and thus getting into more 
trouble. When patient realized he was going to fail these 
courses again, he started feeling hopeless and desperate because 
he was really interested in computer science and just wanted to 
graduate and get a job in the field, and also because, while his 
family knew about him failing the courses the first time, he 
didn't update them on how he was doing this semester and was 
very ashamed to report another failure. In this setting, patient 
started having thoughts of killing himself by cutting his 
carotid artery with a knife (so that he'll get "knocked out" and 
bleed out and die without much suffering). This morning, patient 
came close to attempting this by holding a knife at his neck but 
didn't cut himself and at the last moment decided to call ___ 
police for help.  In addition to academic difficulties, patient 
endorses some social isolation because of his congenital 
muscular dystrophy limiting from going out with other people. He 
regularly keeps in touch with his old friends in ___ by 
Internet and went to see them in ___ during the ___ 
___, but he doesn't have many friends at ___. Patient's parents 
and older brother have been very supportive of him and he feels 
very guilty and ashamed for failing when they spent so many 
resources for his studies.  Patient endorses depressed mood, 
hopelessness, anhedonia, guilty feelings, decreased energy and 
concentration, sleeping difficulties, and SI, as well as 
significant anxiety. He denies any changes in his appetite, 
A/VH, paranoia, delusions of reference, or any manic/ hypomanic/ 
mixed symptoms.   At the time of the interview, patient endorsed 
still having thoughts of cutting himself with a knife but denied 
any intent and expressed his willingness to talk to staff 
members if he experiences worsening SI and/or urges to hurt 
himself while on the unit. 

 
Past Medical History:
Congenital muscular dystrophy: patient experiences limitations
because of his generalized muscle weakness (i.e. cannot run,
cannot get up from the floor if he falls; has difficulty walking
up the stairs, walking longer distance and getting up from a
chair but not out of bed) but lives by himself and functions
independently without requiring assistance
 
Social History:
Born/Raised: born in ___, raised in ___ father works 
at ___; parents now moved back to ___ 
Family/Support: mother and father, older brother ___ 
friends
___: apartment on ___, one roommate
Education: ___ at ___ majoring in ___
Employment/Income: financially supported by parents 
Spiritual: raised ___, but faith is not important to him
Trauma history: denies
.
SUBSTANCE USE HISTORY: 
Tobacco: denies
ETOH: Drinks ___ times per week, up to ___ beers or shots, 
denies history of blackouts or withdrawal symptoms
Marijuana and illicit drugs: denies
.
FORENSIC HISTORY: ___
Family History:
No one on mother or father's side with diagnosis
Paternal grandfather with ___ disease and depression in 
nursing home
 
Physical Exam:
ADMISSION EXAM:
.
General: 
- HEENT: Normocephalic, atraumatic. Moist mucous membranes, 
oropharynx clear, supple neck. No scleral icterus.
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/ rubs/ gallops. Distal pulses ___ throughout.
- Pulmonary: No increased work of breathing. Lungs clear to 
auscultation bilaterally. No wheezes/rhonchi/rales.
- Abdominal: Non-distended, bowel sounds normoactive. No 
tenderness to palpation in all quadrants. No guarding, no 
rebound tenderness.
- Extremities: Warm and well-perfused. No edema of the limbs.
- Skin: No rashes or lesions noted on exposed areas of skin.
.
Neurological: 
- Cranial Nerves:
--- I: Olfaction not tested.
--- II: PERRL brisk bilaterally.  
--- III, IV, VI: EOMI without nystagmus.
--- V: Facial sensation intact to light touch in all 
distributions
--- VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally.
--- VIII: Hearing intact to finger rub bilaterally.
--- IX, X: Palate elevates symmetrically.
--- XI: ___ strength in trapezii and SCM bilaterally.
--- XII: Tongue protrudes in midline.
- Motor: Somewhat decreased bulk and tone throughout. No 
abnormal movements, no tremor. Strength ___ throughout.
- Sensory: No deficits to fine touch throughout.
- DTRs: 2+ and symmetrical throughout.
- Coordination: Normal on finger to nose test, no intention 
tremor noted.
- Gait: Good initiation. Narrow-based, shorted stride and 
limited arm swing.
.
Cognition: 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Memory: ___ registration, ___ delayed recall, long-term memory
appears grossly intact
- Fund of knowledge: consistent with education; intact to last 4 
presidents
- Calculations: 7 quarters = "$1.75"
- Abstraction: Interprets "the grass is always greener on the 
other side" as "things appear to be better from outside"
- Language: native ___ speaker, fluent, no paraphasic 
errors, appropriate to conversation
.
Mental Status: 
- Appearance: young man appearing his stated age or older, 
appropriate grooming and hygiene
- Behavior: sitting with his head slightly down, limited eye 
contact, no psychomotor agitation or retardation
- Attitude: pleasant, cooperative
- Mood: "hopeless"
- Affect: mood-congruent, dysthymic, reactive with tears
- Speech: normal rate, volume, and tone
- Thought process: linear, coherent, goal-oriented, no loose 
associations
- Thought Content:
--- Safety: endorses suicidal thoughts of cutting himself with a 
knife by denies any current intent; denies violent thoughts 
toward others
--- Delusions: no evidence of paranoia, etc. 
--- Obsessions/Compulsions: no evidence based on current 
encounter
--- Hallucinations: denies AVH, not appearing to be attending to 
internal stimuli
- Insight: limited
- Judgment: limited

Mental Status Exam on discharge:
Appearance: fair grooming and hygiene, wearing own clothes
Behavior: engaging, cooperative, friendly
Mood and Affect: "good", affect wnl, normal range, reactive
Thought Process: reality oriented, goal directed, future 
oriented
Thought Content: denies SI/HI, denies AH/VH/delusions, no racing 
thoughts
Judgment and Insight: fair, fair

Cognition:
Attention: awake, alert, attentive to interview
Orientation: fully oriented
Memory: intact to history
 
Pertinent Results:
CBC with differential (___):
WBC-7.6 RBC-5.20 Hgb-15.8 Hct-48.5 MCV-93 MCH-30.4 MCHC-32.6 
RDW-11.9 RDWSD-40.9 Plt ___
Neuts-67.1 ___ Monos-8.0 Eos-0.4* Baso-0.4 Im ___ 
AbsNeut-5.08 AbsLymp-1.80 AbsMono-0.61 AbsEos-0.03* AbsBaso-0.03
.
BMP (___):
Glucose-92 UreaN-9 Creat-0.3* Na-142 K-4.1 Cl-102 HCO3-24 
AnGap-16
.
Toxicology (___):
URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG cocaine-NEG 
amphetmn-NEG oxycodn-NEG mthdone-NEG
BLOOD  ASA-NEG ETHANOL-NEG ACETMNPHN-NEG tricyclic-NEG
.
Thyroid (___):
TSH-2.5
.
Nutrition (___):
VIT B12-432 FOLATE-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
On presentation, patient reported anxiety and depressive 
symptoms, including low mood, amotivation, fatigue, sleep 
disruption, hopelessness, social isolation, and suicidal 
ideation. Prior to admission he held a knife to his throat with 
plan to cut his carotid, however changed his mind at last minute 
after seeing a toy given to him by his parents. He identifies 
psychosocial factors as very important, including repeatedly 
failing classes and upcoming final exams, worry about his future 
career, and social and logistical challenges related to his 
muscular dystrophy. His mental status on admission was notable 
for dysphoric and tearful affect and suicidal ideation with same 
plan, and no other significant abnormalities. Diagnostically, 
most consistent with MDD with anxious distress, although 
patient's rapid partial improvement in hospital suggests there 
could be a characterological element or substance use component 
(e.g. moderate-heavy drinking). Interventions included 
individual therapy, group therapy, milieu, and psychotropic 
medications. He also completed chain analysis of near suicide 
attempt with good insight, reflecting deeply on the factors that 
led to his attempt and consequences, and came up with ideas 
about how he could break the chain in the future (tutoring early 
if he is struggling in classes, speaking to friends and family 
more openly about any struggles/challenges). Patient initially 
declined medication, however was subsequently agreeable to trial 
of Sertraline for depression and anxiety. Sertraline was started 
at 25mg on ___ which he tolerated well, and it was increased 
to 50mg at discharge. It is too soon to determine whether 
Sertraline will prove beneficial. On discharge, patient reports 
only some sadness and guilt related to his near suicide attempt; 
mood and other depressive symptoms much improved, now denies SI, 
reports feeling hopeful, demonstrates much improved judgment and 
insight, and reports readiness to adapt to future challenges 
(e.g. possibility of not being allowed to return to ___). 
Recommendations for future treaters would be to titrate 
Sertraline as needed and ensure that treatment includes therapy, 
developing coping skills, and working with patient/school to 
modify environmental/psychosocial stressors and to identify 
accommodations for his physical disability (e.g. for travel 
between classes).
.
3. SUBSTANCE USE DISORDERS:
 #) Audit-C Alcohol Score: 4
Patient reported occasional alcohol use, up to ___ drinks ___ 
times per week. He denied history of blackouts or withdrawal 
symptoms. Patient was counseled about potential adverse effects 
of alcohol and referred to outpatient followup appointment to 
discuss further. 
.
4. MEDICAL
 #) No acute or active medical issues. Muscular dystrophy - 
chronic issue described above.
.
5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills, sensory integration, stress 
management, and distress tolerance skills. At these groups, he 
was noted to participate actively and make relevant 
contributions. In milieu, he was visible and social, and there 
were no behavioral issues.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
The patient's Mother and Father were actively involved, visited 
patient frequently, and assisted with aftercare planning. 
.
#) INTERVENTIONS
- Medications: Sertraline
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Aftercare Coordination: identified and arranged intake with 
new psychopharm prescriber in ___, with plan for them to 
refer patient to a local therapist
- Behavioral Interventions: Chain Analysis, coping skills
- Guardianships: N/A
.
INFORMED CONSENT: Lexapro
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of Lexapro, including the 
black box warning of antidepressants on suicidality in 
adolescents, and risks and benefits of possible alternatives, 
including not taking the medication, with this patient. We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team.  The patient appeared 
able to understand and consented to begin the medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
recent suicidal gesture/ near suicide attempt, lack of 
outpatient treaters, hopelessness, poor coping skills, acutely 
stressful events, untreated mental illness, chronic medical 
problem, limited social support (from peers), young adult age, 
male gender, and Caucasian ethnicity. Modifiable risk factors 
were addressed through various interventions, including 
stabilizing environment, initiating psychiatric treatment 
including therapy and medication, teaching coping skills, 
analysis of factors leading up to attempt, removal from acute 
stressors, and connecting patient with outpatient providers. The 
patient is being discharged with many protective factors, 
including lack of current SI or hopelessness, help-seeking 
behavior, no history of suicide attempts or self-injurious 
behavior, lack of lethal weapons, lack of substance use 
disorder, strong social support in ___ (where patient will 
be living with parents for next several months), sense of 
responsibility to family, ability to form therapeutic 
relationship with providers, ___ view, and 
reality-testing ability. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Unspecified anxiety disorder

 
Discharge Condition:
DISCHARGE EXAM
Vital Signs:
___ ___ Temp: 98.2 BP: 108/69 HR: 73 RR: 16 O2 sat: 97% 

Neurological:
Station and Gait: stable, able to independently raise self from 
seated position (has muscular dystrophy)
Speech: normal rate, rhythm, and prosody
Language: fluent ___

Mental Status:
Appearance: fair grooming and hygiene, wearing own clothes
Behavior: engaging, cooperative, friendly
Mood and Affect: 'good', affect wnl, normal range, reactive
Thought Process: reality oriented, goal directed, future 
oriented
Thought Content: denies SI/HI, denies AH/VH/delusions, no racing 
thoughts
Judgment and Insight: fair, fair

Cognition:
Attention: awake, alert, attentive to interview
Orientation: fully oriented
Memory: intact to history
Fund of knowledge: seems normal

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___